US07544683B2
a) Step 1: trans-4-[4-(4-Isopropyl-piperazine-1-carbonyl)-cyclohexyloxy]-benzoic acid
To a mixture 3.5 g (13.8 mmol) of cis-(4-Isopropyl-piperazin-1-yl)-(4-hydroxycyclohexyl)-methanone, 2.35 g (15.4 mmol) of methyl 4-hydroxybenzoate, 4.47 g (17.0 mmol) of triphenylphosphine in 12 ml of THF, a mixture of 3.88 g (16.9 mmol) of di-tert-butyl azodicarboxylate in 13 ml of THF was added dropwise at 0° C., and stirred for 24 h at room temperature. After evaporation, the residue was purified by column chromatography on silica gel eluting with CH2Cl2 and methanol=from 98:2 to 9:1. After evaporation of the combined products, the residue was purified by column chromatography on silica gel eluting with CH2Cl2 and MeOH=from 100:0 to 19:1. The combined product fractions were evaporated to dryness to yield 1.34 g (25%) of trans-4-[4-(4-Isopropyl-piperazine-1-carbonyl)-cyclohexyloxy]-benzoic acid methyl ester. A mixture of 0.6 g (1.5 mmol) of trans-4-[4-(4-Isopropyl-piperazine-1-carbonyl)-cyclohexyloxy]-benzoic acid methyl ester, 42 mg (1.8 mmol) of lithium hydroxide, 6 ml of THF, 3 ml of water, and 1 ml of methanol was stirred at 80° C. for 16 h. After evaporation, the residue was acidified with 2N hydrochloric acid solution and evaporated. The precipitate was washed with water and dried to yield 0.56 g (97%) of the titled compound. MS (m/e): 375 (MH+).

reactant | trans-4-[4-(4-Isopropyl-piperazine-1-carbonyl)-cyclohexyloxy]-benzoic acid methyl ester | 1.5 mmol, 0.6 g | COC(C1=CC=C(C=C1)O[C@@H]1CC[C@H](CC1)C(=O)N1CCN(CC1)C(C)C)=O | C22H32N2O4
reactant | lithium hydroxide | 1.8 mmol, 42 mg | [OH-].[Li+]
reactant | THF | 6 ml | C1CCOC1 | C4H8O
reactant | water | 3 ml | O | H2O
solvent | methanol | 1 ml | CO | CH4O
product | trans-4-[4-(4-Isopropyl-piperazine-1-carbonyl)-cyclohexyloxy]-benzoic acid | 0.56 g, 97% | C(C)(C)N1CCN(CC1)C(=O)[C@@H]1CC[C@H](CC1)OC1=CC=C(C(=O)O)C=C1 | C21H30N2O4
